US06046201
N-(12-Bromododecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide
To a solution of 419 mg of N-(12-hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide in 20 ml of toluene was added 0.60 ml of a 47% hydrobromic acid and the mixture was heated under reflux for one hour. The reaction solution was washed successively with water, a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue thus obtained was chromatographed over a silica gel column to afford 400 mg of the title compound.

reactant | N-(12-hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 419 mg | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H42N4O2
reactant | hydrobromic acid | Br | BrH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-(12-Bromododecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 400 mg | BrCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H41BrN4O
